* C:\Users\Alexey Revinski\Documents\1_CLASS\BME 390-2\IAR Projects\BME390\LTSpice\PulseGenerator1\PulseGen1.asc
M1 Velectrode N003 V3 V3 Si9410DY
R1 N003 N002 100
C1 N002 Vin 100p
R2 V3 Vin 1k
Rload Vcase Velectrode 1.5k
V1 Vcase 0 15
XU1 N004 Vin N001 0 N002 LT1492
R5 Vin 0 1k
R3 V3 0 1k
V3 N001 0 10
M2 Vdac Vpwm N004 N004 Si9410DY
V2 Vdac 0 1
V4 Vpwm 0 PULSE(0 3.3 0 10n 10n 150u 50m 20)
R4 N004 0 100k
C2 Vcase Velectrode 1pF
.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.mos
.tran 1
.lib LTC.lib
.backanno
.end
