* C:\Users\Alexey Revinski\Documents\1_CLASS\BME 390-2\IAR Projects\BME390\LTSpice\PulseGenerator1\PulseGen1.asc
M1 Velectrode N001 V3 V3 Si9410DY
C1 N001 V3 100p
V1 Vboost 0 10
XU1 N002 V3 Vboost 0 N001 LT1492
R3 V3 0 200
M2 Vdac Vpwm N002 N002 Si9410DY
V2 Vdac 0 1
V4 Vpwm 0 PULSE(0 3.3 0 10n 10n 150u 50m 20)
R4 N002 0 100k
Cload Vboost Velectrode 1pF
Rload Vboost Velectrode 1.5k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.mos
.tran 1
.lib LTC.lib
.backanno
.end
